US06417212B1
The crude 2-(4-bromophenyl-4-(cyanomethyl)-5-methyloxazole (assume 0.22 mol) was combined with 2-methoxyethanol (630 mL) and 85% solid KOH (74.6 g, 1.33 mol) in water (360 mL) was added to the reaction. The mixture was heated to reflux for 3 h, cooled, quenched with 2 M HCl (500 mL), and extracted with CH2Cl2. The organic layer was dried (MgSO4), and the solvent removed in vacuo, using toluene to azeotropically remove residual 2-methoxyethanol. The crude product (57.3 g) was recrystallized from toluene (450 mL) to give 39.8 g (60%) of 2-(4-bromophenyl)-5-methyl-4-oxazoleacetic acid as an off-white powder: Rf=0.23 in 10% MeOH/CH2Cl2; 1H NMR (500 MHz, CDCl3) 9.00 (br s, 1H), 7.85-7.83 (m, 2H), 7.58-7.56 (m, 2H), 3.62 (s, 3H), 2.36 (s, 3H); 13C (125 MHz, CDCl3) 173.8, 159.0, 146.2, 132.0, 129.1, 127.6, 125.9, 124.7, 31.5, 10.2; IR (CHCl3) 2923, 1699, 1641, 1481, 1428, 1306, 1234, 1010, 829, 727 cm−1; UV (EtOH)max 288 nm (19626).

reactant | 4-bromophenyl-4-(cyanomethyl)-5-methyloxazole | 0.22 mol | BrC1=CC=C(C=C1)C=1OC(=C(N1)CC#N)C | C12H9BrN2O
reactant | 2-methoxyethanol | 630 mL | COCCO | C3H8O2
reactant | KOH | 1.33 mol, 74.6 g | [OH-].[K+]
reactant | water | 360 mL | O | H2O
product | 2-(4-bromophenyl)-5-methyl-4-oxazoleacetic acid | 39.8 g, 60% | BrC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C | C12H10BrNO3
